US08138340B2
(2-Chloro-3-trifluoromethylbenzyl)cyclopropylamine
The mixture of 2-chloro-3-trifluoromethylbenzaldehyde (37.4 g, 179.5 mmol) and cyclopropylamine (25.2 mL, 359.1 mmol) in MeOH (500 mL) was stirred at rt overnight. Subsequently, NaBH4 (9.2 g, 233.4 mmol) was added at 0° C. and the mixture was allowed to warm to rt overnight. 1M NaOH was added (100 mL) and the solvent was evaporated under reduced pressure. Brine (100 mL) was added and extracted with EtOAc (3×100 mL). 2N HCl (100 mL) was added and extracted with Et2O (3×100 mL). The org. phase was washed with 2N HCl (100 mL). To the combined water phase 2N NaOH was added (to pH=14) and the mixture was extracted with EtOAc (3×100 mL). The combined org. extracts were dried over MgSO4, filtered, and the solvents were removed under reduced pressure. The corresponding product was isolated as a colourless liquid (33.7 g, 75%). LC-MS: tR=0.66 min; ES+: 250.17.

reactant | 2-chloro-3-trifluoromethylbenzaldehyde | 179.5 mmol, 37.4 g | ClC1=C(C=O)C=CC=C1C(F)(F)F | C8H4ClF3O
reactant | cyclopropylamine | 359.1 mmol, 25.2 mL | C1(CC1)N | C3H7N
reactant | NaBH4 | 233.4 mmol, 9.2 g | [BH4-].[Na+]
reactant | NaOH | 1M | [OH-].[Na+]
solvent | MeOH | 500 mL | CO | CH4O
product | (2-Chloro-3-trifluoromethylbenzyl)cyclopropylamine | 33.7 g, 75% | ClC1=C(CNC2CC2)C=CC=C1C(F)(F)F | C11H11ClF3N
